US07960409B2
Step 4: 4-chloro-7-methylquinoline-2-carbonitrile
A mixture of 7-methylquinoline-2-carbonitrile 1-oxide (11.5 g, 63 mmol) and phosphorus oxychloride (47 mL, 500 mmol) was heated at 100° C. for 10 min then at 200° C. for 20 min. The reaction mixture was poured into crushed ice and the precipitate was filtered. The crude material was then purified by flash chromatography on silica gel (eluting solvent: 3% acetone in dichloromethane) to provide the title compound. 1HNMR (400 MHz, acetone-d6): δ 8.25 (d, 1H), 8.10 (s, 1H), 8.00 (d, 1H), 7.82 (dd, 1H), 2.65 (s, 3H).

reactant | 7-methylquinoline-2-carbonitrile 1-oxide | 63 mmol, 11.5 g | CC=1C=CC2=CC=C([N+](=C2C1)[O-])C#N | C11H8N2O
reactant | phosphorus oxychloride | 500 mmol, 47 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-7-methylquinoline-2-carbonitrile | ClC1=CC(=NC2=CC(=CC=C12)C)C#N | C11H7ClN2
